US08053438B2
STEP 2: N-METHYL-N-(4-(3-(TETRAHYDRO-2H-PYRAN-4-YL)PYRAZIN-2-YLOXY)PHENYL)BENZO[D]THIAZOL-2-AMINE
To a solution of 4-(benzo[d]thiazol-2-ylamino)phenol (0.094 g, 0.390 mmol) and methyl 4-(3-chloropyrazin-2-yl)tetrahydro-2H-pyran-4-carboxylate (0.1 g, 0.390 mmol) in DMSO (1 mL) was added cesium carbonate (0.254 g, 0.779 mmol). The resulting mixture was heated to 163° C. for ˜20 minutes. Reaction mixture was cooled back to 100 C and stirred overnight. Aqueous work up with multiple water and brine washes to remove DMSO and extraction with DCM. Purification by Shimadzu (phenomenex Gemini C18 5 um 100×30 mm; 254 UV; solvent A=0.1% TFA in water, solvent B=0.1% TFA in ACN; gradient run: 35% B to 80% B in 9 min; 1 min@ 80% B; flow rate=30 ml/min; 2 peaks contained mass 418: R1 =3.91 to 4.26 min; R2=5.83 to 6.36 min) to afford the product. MS (ESI, pos. ion) m/z: 419.0 (M+1). IC50 (uM) +++++.

reactant | 4-(benzo[d]thiazol-2-ylamino)phenol | 0.390 mmol, 0.094 g | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)O | C13H10N2OS
reactant | methyl 4-(3-chloropyrazin-2-yl)tetrahydro-2H-pyran-4-carboxylate | 0.390 mmol, 0.1 g | ClC=1C(=NC=CN1)C1(CCOCC1)C(=O)OC | C11H13ClN2O3
reactant | cesium carbonate | 0.779 mmol, 0.254 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | N-METHYL-N-(4-(3-(TETRAHYDRO-2H-PYRAN-4-YL)PYRAZIN-2-YLOXY)PHENYL)BENZO[D]THIAZOL-2-AMINE | CN(C=1SC2=C(N1)C=CC=C2)C2=CC=C(C=C2)OC2=NC=CN=C2C2CCOCC2 | C23H22N4O2S
